US06342523B1
Synthesis of α-(4-Acetoxy-3,5-di-tert-butylphenyl)-N-isobutylnitrone
To a solution of 4-acetoxy-3,5-di-tert-butylbenzaldehyde (17.0 g, 0.0615 mol) in methanol (250 mL) was added isobutylhydroxylamine (5.36 g, 0.0714mol) and concentrated hydrochloric acid (10 drops ). Using a Dean-Stark trap, the resulting solution was refluxed until no more aldehyde was detected by TLC (Rf=0.23 for product and 0.84 for starting material using 3:1 hexanes/EtOAc) The solvent was removed in vacuo and the residue was a red oil which when triturated with hexanes it turned into solid. The solid was separated and washed completely with hexanes. The titled compound was isolated in 52.3% yield as a white solid, m.p. 176.8-180.4° C.

reactant | 4-acetoxy-3,5-di-tert-butylbenzaldehyde | 0.0615 mol, 17.0 g | C(C)(=O)OC1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C17H24O3
reactant | isobutylhydroxylamine | 0.0714mol, 5.36 g | C(C(C)C)NO | C4H11NO
solvent | methanol | 250 mL | CO | CH4O
catalyst | hydrochloric acid | 10 drops | Cl | ClH
product | α-(4-Acetoxy-3,5-di-tert-butylphenyl)-N-isobutylnitrone | 52.3% yield | C(C)(=O)OC1=C(C=C(C=C1C(C)(C)C)C=[N+]([O-])CC(C)C)C(C)(C)C | C21H33NO3
